US03957986
An alcoholic solution of N,N'-bis(3-di-n-butylaminopropyl)-9-oxoxanthene-2,7-dicarboxamide, prepared in Example 3, can be used with a palladium catalyst to effect a hydrogenation to give N,N'-bis(3-di-n-butylaminopropyl)xanthen-2,7-dicarboxamide.

reactant | N,N'-bis(3-di-n-butylaminopropyl)-9-oxoxanthene-2,7-dicarboxamide | C(CCC)N(CCCNC(=O)C1=CC=2C(C3=CC(=CC=C3OC2C=C1)C(=O)NCCCN(CCCC)CCCC)=O)CCCC | C37H56N4O4
catalyst | palladium | [Pd] | Pd
product | N,N'-bis(3-di-n-butylaminopropyl)xanthen-2,7-dicarboxamide | C(CCC)N(CCCNC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(=O)NCCCN(CCCC)CCCC)CCCC | C37H58N4O3
